Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with a PMH notable for COPD on 
home O2(hospitalized ___, multiple recent ED visits), Afib on 
apixaban, HTN, CAD, and HLD who presents with several days of 
worsening dyspnea.

Patient has had several ED visits for dyspnea and a recent 
hospitalization for a COPD exacerbation in ___. She has 
been on steroid therapy with several attempts to taper over the 
last several months. After her most recent ED visit on ___ 
she was on placed on 60 mg PO prednisone with a taper down by 10 
mg each day. Her SOB worsened with the taper and she was seen on 
___ by her PCP who started her on a course of prednisone 30 mg 
PO to be tapered down by 5 mg every 3 days. With the taper she 
is currently on prednisone 25 mg QD.

She reports that her SOB improved slightly after starting the 
steroids on ___. However, last night it acutely worsened and she 
was unable to sleep. She usually uses 3 pillows to sleep but was 
only comfortable seated upright last night. This morning she 
increased her oxygen to 3L and felt better. She is usually on 2L 
NC at home. She reports that for the last several months she has 
been using two different albuterol inhalers each every ___ 
hours. She knows that this is more than they are prescribed for 
but it makes her comfortable. She mostly stays put on the second 
floor of her home. She states that she can walk to the bathroom 
without being short of breath, but does not use the stairs 
unless she has to leave the house because it worsens her 
breathing. She endorses a cough occasionally productive of ___ 
sputum. This is consistent with her baseline. She endorses one 
episode of non-exertional chest pain today that spontaneously 
resolved. She denies fever, chills, recent sick contacts, and 
lower extremity edema.

In the ED, initial vital signs were: T 98.5 P 80 BP 154/97 R 20 
O2 sat 97% NC.  
- Exam notable for: Diffuse expiratory wheezing, prolonged 
expiratory phase, left inspiratory crackles, irregularly 
irregular rhthym, minimal pedal edema  
- Labs were notable for CBC wnl, proBNP 235, Trop 0.02, chem 
notable for bicarb 31, AG 13, UA notable for 40 RBCs  
- Studies performed include CXR with stable mild/moderate 
cardiomegaly, atelectasis at bases, otherwise clear lung fields
- Patient was given Albuterol neb x 1, ipratropium neb x 1, 
Azithromycin 500 mg PO, Prednisone 25 mg PO

Upon arrival to the floor, the patient states that she is doing 
well. She says that her SOB has improved since this morning and 
is better than last night when she could not sleep.  
 
Review of Systems:  
 (+) per HPI  
 (-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
ASTHMA/COPD  
ATYPICAL CHEST PAIN  
CERVICAL RADICULITIS  
CERVICAL SPONDYLOSIS  
CORONARY ARTERY DISEASE  
HEADACHE  
HIP REPLACEMENT  
HYPERLIPIDEMIA  
HYPERTENSION  
OSTEOARTHRITIS  
HERPES ZOSTER  
ATRIAL FIBRILLATION  
ANXIETY  
GASTROINTESTINAL BLEEDING  
OSTEOARTHRITIS    
PERIPHERAL VASCULAR DISEASE (s/p bilateral iliac stents)
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
=================
ADMISSION EXAM:
=================
Vitals- T 98.0 BP 148/70 HR 70 RR 24 O2Sat 96% on 2L NC  
GENERAL: AOx3, NAD, sitting up in bed
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Moist mucous membranes, good dentition.  Oropharynx 
is clear.
NECK: Supple. JVD not visualized.
CARDIAC: Irregularly irregular, ___ systolic murmur best at the 
LSB, no rubs or gallops.
LUNGS: Poor air movement throughout. Mild diffuse inspiratory 
and expiratory wheezes. No use of accessory muscles of 
breathing. No rhonchi or rales.
BACK: No CVA tenderness 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing or cyanosis. Bilateral pitting edema to 
the mid shin. Pulses DP/Radial 2+ bilaterally.
SKIN: No rash or ulcers
NEUROLOGIC: CN2-12 intact.  Moves all extremities spontaneously. 
 Normal sensation. 
=================
DISCHARGE EXAM:
=================
Vitals- T 98.7 BP 154/85 HR 77 RR 18 O2Sat 99% on 3L NC  
GENERAL: AOx3, NAD, sitting up in bed
HEENT: NCAT.  PERRL. EOMI. Sclera anicteric and not injected. 
MMM.   Oropharynx is clear.
NECK: Supple. No LAD. JVP not appreciated at 45 degrees.
CARDIAC: Irregularly irregular, normal rate. ___ systolic murmur 
at the RUSB. No rubs or gallops.
LUNGS: Poor air movement throughout all zones of the lungs. No 
wheezes. No prolonged expiratory phase. No rhonchi or rales. 
Does typically sit cross legged in the bed with forearms on her 
legs in a tripod position.
BACK: No CVA tenderness. 
ABDOMEN:  +BS, soft, nontender, nondistended
EXTREMITIES: Trace pitting edema to the mid shin. 2+ DP pulses 
bilaterally. No TTP.
SKIN: No rash or ulcers.
NEUROLOGIC: CN2-12 intact.  Moves all extremities spontaneously. 
 Normal sensation. 
 
Pertinent Results:
==================
ADMISSION LABS:
==================
___ 02:27PM BLOOD WBC-7.4 RBC-4.57 Hgb-12.3 Hct-39.3 MCV-86 
MCH-26.9 MCHC-31.3* RDW-23.6* RDWSD-70.9* Plt ___
___ 02:27PM BLOOD Neuts-86.5* Lymphs-6.1* Monos-6.6 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-6.38* AbsLymp-0.45* 
AbsMono-0.49 AbsEos-0.00* AbsBaso-0.00*
___ 02:27PM BLOOD Glucose-132* UreaN-17 Creat-1.0 Na-137 
K-3.7 Cl-93* HCO3-31 AnGap-17
==================
PERTINENT RESULTS:
==================
LABS:
==================
___ 12:15AM BLOOD ___ pO2-103 pCO2-49* pH-7.42 
calTCO2-33* Base XS-5
===
___ 02:27PM BLOOD cTropnT-0.02* proBNP-235
___ 09:05PM BLOOD CK-MB-6 cTropnT-<0.01
___ 07:45AM BLOOD CK-MB-6 cTropnT-0.02*
===
___ 07:45AM BLOOD THEOPHYLLINE-17.3 (10.0-20.0)
==================
IMAGING:
==================
CXR (___): PA and lateral views the chest provided. Biapical 
pleural parenchymal scarring noted.  No focal consolidation 
concerning for pneumonia. No effusion or pneumothorax.  No signs 
of congestion or edema. Cardiomediastinal silhouette is stable 
with an unfolded thoracic aorta and top-normal heart size. Bony 
structures are intact.
===
CT Chest (___):
1.  Moderate upper lobe predominant centrilobular and paraseptal 
emphysema.
2.  New left lower lobe nodule, potentially measuring as large 
as 6 x 8 mm, warrants close follow-up.  Stable to slightly 
smaller 4 mm right middle lobe nodule.
3.  Severe coronary artery calcifications.  Aortic valve 
calcifications. 
4.  Enlargement of the main and right pulmonary arteries is 
suggestive of chronic pulmonary arterial hypertension. 
5.  Fusiform aneurysmal dilatation of the abdominal aorta 
measuring up to 3.7 cm has progressed compared to prior 
examination.
==================
DISCHARGE LABS:
==================
___ 07:45AM BLOOD WBC-7.8 RBC-4.74 Hgb-12.7 Hct-41.0 MCV-87 
MCH-26.8 MCHC-31.0* RDW-23.7* RDWSD-71.7* Plt ___
___ 07:45AM BLOOD Glucose-94 UreaN-18 Creat-1.0 Na-135 
K-3.3 Cl-93* HCO3-31 AnGap-14
___ 07:45AM BLOOD Calcium-9.8 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a PMH notable for COPD on 
home O2 (hospitalized ___, multiple recent ED visits), Afib 
on apixaban, HTN, CAD, and HLD who presented with dyspnea and 
orthopnea in the setting of a steroid taper for recent COPD 
exacerbation. Her dyspnea was thought to be multifactorial due 
to her severe COPD and with a component of anxiety. The patient 
was not thought to be having an acute COPD exacerbation.

================
ACTIVE ISSUES:
================

# Dyspnea: Patient was admitted after one night of worsened 
orthopnea and dyspnea in the setting of a steroid taper from 30 
mg to 25 mg. Her dyspnea was thought to be multifactorial due to 
her severe COPD and with a component of anxiety. The patient was 
not thought to be having an acute COPD exacerbation. The patient 
was treated with occasional duonebs and lorazepam 0.5 mg PRN 
that helped relieve her dyspnea. Pulmonology was consulted. The 
patient underwent CT that showed emphysema but no evidence of 
infection such as ___. The patient was initiated on a steroid 
taper on ___ of prednisone 30 mg for 3 days, then 20 mg for 3 
days, then 10 mg until outpatient follow-up. Pulmonology 
recommended increasing her Advair dose to 500/50, which was 
done. They also recommended switching from theophylline to 
roflumilast and initiation of long-term azithromycin therapy 
provided the patient's QTc was not prolonged; this was deferred 
to the outpatient setting. Throughout her admission she had O2 
sats greater than 95% on 2L NC. She did not desaturate on 
ambulation. 

# Anxiety/Insomnia: Patient with a history of anxiety and 
insomnia, thought to be contributing to her experience of 
dyspnea. The patient was discharged with lorazepam Q8H as needed 
for anxiety. The patient would likely benefit from therapy with 
an SSRI.

# Demand Ischemia: Patient with troponin 0.02, <0.01, then 0.02. 
ECG without acute ischemic changes.

# Microscopic hematuria: On admission the patient had a UA with 
40 RBCs. Occasional UAs over the last year in OMR with 
microscopic hematuria. Would recommend repeat UA as an 
outpatient or work-up for microscopic hematuria.

================
CHRONIC ISSUES:
================

# Smoking: Patient recently quit smoking one month ago. Patient 
was provided with a nicotine patch 7 mg while in house; could 
consider continuing as an outpatient if patient endorses 
cravings.

# Atrial fibrillation: Patient continued on diltiazem 240 mg PO 
BID and apixaban 5 mg BID.

# HTN: Patient with a history of hypertension. Blood pressure 
well-controlled. Continued on isosorbide mononitrate ER 240 mg 
PO daily and hydrochlorothiazide 50 mg PO daily.

# CAD: Cardiac catheterization in ___ without evidence of 
significant stenosis of coronaries. ECHO on ___ with EF>55% 
and no regional or global wall motion abnormalities. The patient 
was continued on aspirin 81 mg daily and atorvastatin 10 mg QPM.

===================
TRANSITIONAL ISSUES:
===================
#New Medications:
-Prednisone 30 mg PO QD through ___, then on ___ mg for 3 
days, then on ___ mg until outpatient follow-up
-Increased Advair (Fluticasone-Salmeterol) to 500/50 dose
-Lorazepam 0.5 mg PO Q8H PRN for anxiety

#Follow-up:
-Appointment arranged with PCP, ___ ___
-Appointment arranged with Pulmonologist, Dr. ___, ___

#COPD: Patient was seen by pulmonology during admission who had 
the following recommendations to consider as an outpatient.
-Switch to roflumilast from theophylline
-Daily azithromycin for treatment of chronic inflammation 
provided QTc within normal limits.
-Patient may benefit from treatment of anxiety with an SSRI, as 
her anxiety is likely contributing to her experience of dyspnea.
-In the future, palliative care consult for consideration of 
opioid treatment of dyspnea

#Microscopic hematuria: Patient had a UA with 40 RBCs on 
admission 
-Recommend repeat UA as an outpatient or work-up for microscopic 
hematuria

#Lung nodule: New left lower lobe nodule, potentially measuring 
as large as 6 x 8 mm, warrants close follow-up.  Stable to 
slightly smaller 4 mm right middle lobe nodule. Follow-up CT in 
___ months as per ___ guidelines for evaluation 
of new left lower lobe pulmonary nodule.

#Code Status: Full code
#Emergency Contact/HCP: ___ (HUSBAND) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
Tapered dose - DOWN 
2. Acetaminophen 325 mg PO Q4H:PRN Pain 
3. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Guaifenesin 1 teaspoon PO Q3H:PRN cough 
6. Lorazepam 0.5 mg PO QHS vertigo/insomnia 
7. Diltiazem Extended-Release 240 mg PO BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Docusate Sodium 100 mg PO BID 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
11. Apixaban 5 mg PO BID 
12. Ranitidine 300 mg PO DAILY 
13. Atorvastatin 10 mg PO QPM 
14. Ferrous Sulfate 325 mg PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
17. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
18. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
19. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
20. Theophylline SR 300 mg PO BID 
21. Aspirin 81 mg PO DAILY 
22. albuterol sulfate 90 mcg/actuation inhalation Q4H 
23. Hydrochlorothiazide 50 mg PO DAILY 
24. cod liver oil 1 capsule  oral BID 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. Apixaban 5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Diltiazem Extended-Release 240 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
10. Hydrochlorothiazide 50 mg PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
13. Multivitamins 1 TAB PO DAILY 
14. PredniSONE 30 mg PO DAILY 
RX *prednisone 10 mg 3 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
15. Ranitidine 300 mg PO DAILY 
16. Theophylline SR 300 mg PO BID 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. Guaifenesin 1 teaspoon PO Q3H:PRN cough 
19. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 
20. cod liver oil 1 capsule  oral BID 
21. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
22. albuterol sulfate 90 mcg/actuation inhalation Q4H 
23. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 500 mcg-50 mcg/dose 1 
dose Inhaled Twice a day Disp #*1 Disk Refills:*1
24. Lorazepam 0.5 mg PO Q8H:PRN Anxiety 
RX *lorazepam [Ativan] 0.5 mg 0.5 (One half) mg by mouth Every 8 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Chronic obstruction pulmonary disease exacerbation

Secondary Diagnoses:
Tobacco use disorder
Atrial fibrillation
Hypertension
Anxiety
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you during your admission to 
___. You were admitted to the hospital for 
shortness of breath and concern that you were having a flare of 
your COPD.

While in the hospital we increased your dose of steroids to help 
your breathing. You also received several nebulizer treatments 
that helped your breathing. You were also expressing some 
anxiety that may have been contributing to your shortness of 
breath. You were given a medication called Ativan for your 
anxiety that also seemed to help your breathing.

During your admission you were seen by the pulmonary 
specialists. They recommended a CT scan that showed that you 
have extensive COPD but did not show any infection. They also 
suggested increasing the dose of your Advair inhaler, which we 
did.

If you feel short of breath, first please check your oxygen 
level. If it is less than 90, you can use oxygen and your 
inhaler. If not, try to wait a few minutes, take a few deep 
breaths and see if your shortness of breath improves. You can 
use the medication called Ativan(lorazepam) to help with the 
shortness of breath(no more than three times a day). If still 
not improved, you can use one of the inhalers/oxygen. 

Please follow-up with all your appointments as listed below and 
continue to take all of your medications as prescribed. If you 
experience any of the danger signs listed you should call your 
doctor immediately or go to the Emergency Room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___